US06753124B2
8,9-di(tetrahydropyranyloxycarbonyl)tetracyclo[4.4.0.12,5.17,10]dodeca-3-ene.
Of these norbornene derivativeses (β-1), 5-t-butoxycarbonylnorbornene, 5,6-di(t-butoxycarbonyl)norbornene, 5,6-di(t-butoxycarbonylmethoxycarbonyl)norbornene, 8-t-butoxycarbonyltetracyclo[4.4.0.12,5.17,10]dodeca-3-ene, 8-methyl-8-t-butoxycarbonyl)tetracyclo[4.4.0.12,5.17,10]dodeca-3-ene, 8-methyl-8-t-butoxycarbonylmethoxycarbonyl)tetracyclo[4.4.0.12,5.17,10]dodeca-3-ene, and the like are preferable.

reactant | norbornene | C12C=CC(CC1)C2 | C7H10
reactant | 5-t-butoxycarbonylnorbornene | C(C)(C)(C)OC(=O)C1C2C=CC(C1)C2 | C12H18O2
reactant | 5,6-di(t-butoxycarbonyl)norbornene | C(C)(C)(C)OC(=O)C1C2C=CC(C1C(=O)OC(C)(C)C)C2 | C17H26O4
reactant | 5,6-di(t-butoxycarbonylmethoxycarbonyl)norbornene | C(C)(C)(C)OC(=O)COC(=O)C1C2C=CC(C1C(=O)OCC(=O)OC(C)(C)C)C2 | C21H30O8
reactant | 8-t-butoxycarbonyltetracyclo[4.4.0.12,5.17,10]dodeca-3-ene | C(C)(C)(C)OC(=O)C1C2C3C4C=CC(C3C(C1)C2)C4 | C17H24O2
reactant | tetracyclo[4.4.0.12,5.17,10]dodeca-3-ene | C12C3C=CC(C2C2CCC1C2)C3 | C12H16
product | 8,9-di(tetrahydropyranyloxycarbonyl)tetracyclo[4.4.0.12,5.17,10]dodeca-3-ene | O1C(CCCC1)OC(=O)C1C2C3C4C=CC(C3C(C1C(=O)OC1OCCCC1)C2)C4 | C24H32O6
